US04983623
(c) N-tert.-Butoxycarbonyl-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylic acid
56.5 g (0.163 mol) of benzyl N-tert.-butoxycarbonyl-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate are hydrogenated in 400 ml of ethanol with 2 g of palladium on charcoal as catalyst at 20° C. and under 1.1 bar. 40.4 g of the title compound are obtained. Rf (SiO2, EtOAc/MeOH=20:1) 0.45.

reactant | benzyl N-tert.-butoxycarbonyl-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate | 0.163 mol, 56.5 g | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2 | C20H27NO4
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | N-tert.-Butoxycarbonyl-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylic acid | 40.4 g | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](C[C@H]1C(=O)O)CCC2 | C13H21NO4
